US06635658B2
(1-Benzyl-piperidin-4-yl)-(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-amine
To a solution of 7-methoxy-3,4-dihydro-1H-naphthalen-2-one (10 g, 56.7 mmol) and 1-benzyl-piperidin-4-ylamine (12.7 mL, 62.4 mmol) in dichloroethane (50 mL) under a nitrogen atmosphere was added sodium triacetoxyborohydride (30 g, 141.8 mmol, 3.5 eq.) in a single portion. The reaction was stirred at room temperature for 24 h. The reaction was concentrated in vacuo and partitioned between EtOAc (100 mL) and 5% aq. KOH (50 mL). The aqueous layer was extracted twice more with EtOAc (2×50 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated to afford a dark oil. This material was used directly in Step 2.

reactant | 7-methoxy-3,4-dihydro-1H-naphthalen-2-one | 56.7 mmol, 10 g | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
reactant | 1-benzyl-piperidin-4-ylamine | 62.4 mmol, 12.7 mL | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | sodium triacetoxyborohydride | 141.8 mmol, 30 g, 3.5 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | (1-Benzyl-piperidin-4-yl)-(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-amine | C(C1=CC=CC=C1)N1CCC(CC1)NC1CC2=CC(=CC=C2CC1)OC | C23H30N2O
